US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine6-carboximidate and 2-trifluoromethylbenzoyl chloride, there is obtained ethyl N-(o-trifluoromethylbenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate, m,p. 122°-125° C.;

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | 2-trifluoromethylbenzoyl chloride | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | ethyl N-(o-trifluoromethylbenzoyl)-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | FC(C1=C(C(=O)N=C(OCC)N2CC3=C(C4=C(C2)C=CC=C4)C=CC=C3)C=CC=C1)(F)F | C25H21F3N2O2
